US08222416B2
To a solution of 2-(tetrahydro-pyran-2-yl)-ethanol (53.5 g, 0.41 mol) in dichloromethane (1 L) was added pyridinium chlorochromate (176.8 g, 0.82 mol) in small portions at room temperature. The dark suspension was stirred for 3 h. The mixture was filtered through a short pad of silica gel. The filtrate was concentrated in vacuo and the residue was diluted with n-hexane (400 mL). The mixture was filtered through a short pad of silica gel and the filtrate was concentrated in vacuo to afford (tetrahydro-pyran-2-yl)-acetaldehyde (38 g) as a colorless oil.

reactant | 2-(tetrahydro-pyran-2-yl)-ethanol | 0.41 mol, 53.5 g | O1C(CCCC1)CCO | C7H14O2
reactant | pyridinium chlorochromate | 0.82 mol, 176.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | (tetrahydro-pyran-2-yl)-acetaldehyde | 38 g | O1C(CCCC1)CC=O | C7H12O2
